US08242104B2
(2S,3S)-3-Methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (518 mg, 2.0 mmol) was stirred in 7M ammonia in methanol (5 mL) for 4 days. The reaction mixture was concentrated in vacuo and the residue was subjected to flash chromatography (SiO2, gradient 0 to 6% methanol in DCM) to give (2S,3S)-2-Carbamoyl-3-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester (153 mg, 31%). 1H NMR 400 MHz (DMSO-d6) δ: 7.54 (1H, br, s), 7.09 (1H, br, s), 4.09-4.00 (1H, m), 3.78 (1H, m), 3.47 (1H, m), 3.26 (3H, s), 1.93 (3H, m), 1.37 (9H, s)

reactant | (2S,3S)-3-Methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 2.0 mmol, 518 mg | COC(=O)[C@H]1N(CC[C@@H]1OC)C(=O)OC(C)(C)C | C12H21NO5
reactant | ammonia | 7M | N | H3N
solvent | methanol | 5 mL | CO | CH4O
product | (2S,3S)-2-Carbamoyl-3-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 153 mg, 31% | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)OC)C(N)=O | C11H20N2O4
